US09340538B2
Step F: (3S)-4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-2,2-dimethylmorpholine-3-carboxylic acid
A mixture of ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (7.7 g, 15.3 mmol), (S)-2,2-dimethylmorpholine-3-carboxylic acid (2.44 g, 15.3 mmol) and potassium carbonate (4.23 g, 30.6 mmol) in anhydrous ethanol (154 mL) was stirred at 25° C. for 16 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by a silica gel column chromatography (DCM/MeOH (V/V)=25/1) to give the title compound as a yellow solid (5.8 g, 65%). The compound was characterized by the following spectroscopic data:

reactant | ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 15.3 mmol, 7.7 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | (S)-2,2-dimethylmorpholine-3-carboxylic acid | 15.3 mmol, 2.44 g | CC1([C@H](NCCO1)C(=O)O)C | C7H13NO3
reactant | potassium carbonate | 30.6 mmol, 4.23 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 154 mL | C(C)O | C2H6O
product | (3S)-4-((6-(2-bromo-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(thiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)-2,2-dimethylmorpholine-3-carboxylic acid | 5.8 g, 65% | BrC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC=CN1)CN1[C@@H](C(OCC1)(C)C)C(=O)O)C(=O)OCC | C24H26BrFN4O5S
